US06387915B2
2-({5-[{[4-(tert-butyl)phenyl]sulfonyl}(isobutoxycarbonyl) Amino]-4-iodo-3-isoxazolyl}oxy)ethyl Acetate
To a stirring solution of 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-iodo-3-isoxazolyl]oxy}ethyl acetate (Preparation 4) (9.44 g) in dichloromethane was added pyridine (1.65 mL) followed by the slow addition of isobutylchloroforomate (2.41 mL) over 10 minutes. The reaction mixture was stirred at room temperature for one hour. The solvent was removed in vacuo to yield the crude material. This was purified using column chromatography (300 g silica, compound loaded with dichloromethane (15 mL) using a gradient elution of hexane (100% to 75%) and ethyl acetate (0% to 25%) to yield the desired compound as a yellow oil (7.70 g).

reactant | 2-{[5-({[4-(tert-butyl)phenyl]sulfonyl}amino)-4-iodo-3-isoxazolyl]oxy}ethyl acetate | 9.44 g | C(C)(=O)OCCOC1=NOC(=C1I)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C17H21IN2O6S
reactant | pyridine | 1.65 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-({5-[{[4-(tert-butyl)phenyl]sulfonyl}(isobutoxycarbonyl) Amino]-4-iodo-3-isoxazolyl}oxy)ethyl Acetate | 7.70 g | C(C)(=O)OCCOC1=NOC(=C1I)N(C(=O)OCC(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C22H29IN2O8S
